US06693123B2
4-(3-Pyridylmethyloxy)-2-phenylbenzoic Acid Methyl Ester
The desired compound was prepared according to the method of Example 158A, except substituting 4-(3-pyridylmethyloxy)-2-trifluoromethanesulfonyloxybenzoic acid methyl ester, prepared as in Example 240C for 2-iodoterephthalate.

reactant | 4-(3-pyridylmethyloxy)-2-trifluoromethanesulfonyloxybenzoic acid methyl ester | COC(C1=C(C=C(C=C1)OCC=1C=NC=CC1)OS(=O)(=O)C(F)(F)F)=O | C15H12F3NO6S
reactant | 2-iodoterephthalate | IC1=C(C(=O)[O-])C=CC(=C1)C(=O)[O-]
product | 4-(3-Pyridylmethyloxy)-2-phenylbenzoic Acid Methyl Ester | COC(C1=C(C=C(C=C1)OCC=1C=NC=CC1)C1=CC=CC=C1)=O | C20H17NO3
